US04889856
Step B: Preparation of 4-Chloro-2-ethylthieno[3,2-d]pyrimidine
2-Ethyl-4-hydroxythieno[3,2-d]pyrimidine (0.6725 g, 0.00373M) was refluxed with phosphorus oxychloride (20 ml) for 2 hours. The reaction mixture was cooled, concentrated under vacuum, the residue dissolved in methylene chloride, poured over ice and water and basified with ammonia. The layers were separated and the aqueous layer extracted with ether. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated under vacuum to obtain the product, 0.65 g, as a tan solid, m.p. 46°-48° C. the structure of which was confirmed by NMR.

reactant | 2-Ethyl-4-hydroxythieno[3,2-d]pyrimidine | 0.00373M, 0.6725 g | C(C)C=1N=C(C2=C(N1)C=CS2)O | C8H8N2OS
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-ethylthieno[3,2-d]pyrimidine | ClC=1C2=C(N=C(N1)CC)C=CS2 | C8H7ClN2S
